US04740455
Synthesis of 3-[2-(2,5-diketopyrrolidyl)ethyl]-2-methylthiothiazolinium bromide
6.6 g (5×10-2 mols) of 2-methylthiothiazoline and 12.0 g (6×10-2 mols) of 2-(2,5-diketopyrrolidyl)ethyl bromide were heated with stirring for about 3 hours on an oil bath which had been heated to a temperature of 130° C. Thereafter, the reaction system was allowed to cool to room temperature. 50 ml of acetone was added to the reaction system. The resulting precipitate was recovered by decantation. 11.1 g of the desired product was obtained in a 66% yield.

reactant | 2-methylthiothiazoline | 5×10-2 mols, 6.6 g | CSC=1SCCN1 | C4H7NS2
reactant | 2-(2,5-diketopyrrolidyl)ethyl bromide | 6×10-2 mols, 12.0 g | O=C1[N-]C(C=C1CCBr)=O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-[2-(2,5-diketopyrrolidyl)ethyl]-2-methylthiothiazolinium bromide | 11.1 g, 66% yield | [Br-].O=C1[N-]C(C=C1CC[N+]1=C(SCC1)SC)=O | InChI=1S/C10H12N2O2S2.BrH/c1-15-10-12(4-5-16-10)3-2-7-6-8(13)11-9(7)14;/h6H,2-5H2,1H3;1H/p-1
